US05124324
(1-Methyl-2-piperidyl)-1-ethyl 1H-indole-3-carboxylate
To an ice-cooled solution of (1-methyl-2-piperidyl)-1-ethanol (19.4 g, 140 mmol), obtained according to the procedures in Reference Example 4 starting with pyridine-1-ethanol, and 1,3-dimethyl-2-imidazolidinone (30 ml, 270 mmol) in THF (300 ml) was dropwise added 1.6M hexane solution of n-butyllithium (85 ml, 140 mmol) over a period of 25 min. After stirring for 30 min., a THF (100 ml) solution of indole-3-carboxylic acid chloride (17.0 g, 95 mmol) and 1,3-dimethyl-2-imidazolidinone (10 ml, 90 mmol) was added at a temperature of -5° C. or below over a period of 50 min. The mixture was stirred under cooling for 30 min. followed by removal of the ice bath and stirring for additional one hour. A reaction mixture was poured onto water (500 ml) followed by extraction with ethyl acetate (500 ml). The organic layer was washed with water and then transferred to diluted hydrochloric acid (500 ml). The acid layer was washed with ethyl acetate, adjusted with sodium carbonate to a pH >10 and extracted with ethyl acetate (3×200 ml). The organic layer was washed successively with water and saturated aqueous sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to give a crude product (9.5 g) as a yellow oil, which was found by NMR to be an approximately 5:1 diastereomeric mixture. Thus, the oil was crystallized from a chloroform-isopropyl ether to afford a less polar major product as colorless crystals, which were a single diastereoisomer of the title compound (6.10 g). m.p. (HCl salt): 185° C.

reactant | (1-methyl-2-piperidyl)-1-ethanol | 140 mmol, 19.4 g | CN1C(CCCC1)C(C)O | C8H17NO
reactant | pyridine-1-ethanol | N1(CC=CC=C1)CCO | C7H11NO
reactant | 1,3-dimethyl-2-imidazolidinone | 270 mmol, 30 ml | CN1C(N(CC1)C)=O | C5H10N2O
reactant | n-butyllithium | 140 mmol, 85 ml | C(CCC)[Li]
reactant | indole-3-carboxylic acid chloride | 95 mmol, 17.0 g | N1C=C(C2=CC=CC=C12)C(=O)Cl | C9H6ClNO
reactant | 1,3-dimethyl-2-imidazolidinone | 90 mmol, 10 ml | CN1C(N(CC1)C)=O | C5H10N2O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | hexane | 1.6M | CCCCCC | C6H14
product | (1-Methyl-2-piperidyl)-1-ethyl 1H-indole-3-carboxylate | 6.10 g | N1C=C(C2=CC=CC=C12)C(=O)OCCC1N(CCCC1)C | C17H22N2O2
